US07319103B2
2-Cyclohexylideneamino-benzoic acid (1.5 g, 6.9 mmol) was added to phosphorus oxychloride (4 mL) at 0° C. and stirred for 5 minutes followed by heating to 100° C. for 45 minutes. The reaction mixture was cooled to room temperature and slowly poured onto ice (˜100 g) and stirred for 30 minutes. CH2Cl2 (100 mL) was added and the mixture stirred for 5 minutes and the organic layer separated. The aq. layer was extracted with CH2Cl2 (50 mL). The combined CH2Cl2 layers were washed with sat. aq. NaHCO3 (2×50 mL), sat. aq. NaCl (50 mL), dried over Na2SO4, decanted and concentrated to give 9-chloro-1,2,3,4-tetrahydro-acridine, which, was used without further purification.

reactant | 2-Cyclohexylideneamino-benzoic acid | 6.9 mmol, 1.5 g | C1(CCCCC1)=NC1=C(C(=O)O)C=CC=C1 | C13H15NO2
reactant | phosphorus oxychloride | 4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 9-chloro-1,2,3,4-tetrahydro-acridine | ClC=1C2=CC=CC=C2N=C2CCCCC12 | C13H12ClN
